US07087599B2
A solution of 9a-butyl-7-methoxymethoxy-2,2,4-trimethyl-1,2,9,9a-tetrahydro-3H-fluoren-3-one (28 mg, 0.08 mmol) in methanol (2 mL) was placed under a nitrogen atmosphere and treated with 2N aqueous HCl (0.12 mL, 0.24 mmol). The resulting yellow solution was stirred and heated in an oil bath at 55-80° C. for 45 minutes. After cooling to room temperature, the mixture was diluted with EtOAc (60 mL) and shaken with 5% aqueous NaHCO3. The aqueous portion was separated and extracted with EtOAc (40 mL). The combined organics were washed with water and brine, dried over MgSO4, filtered, and concentrated under vacuum to an oil. The crude product was purified by PLC on a 0.1×20×20 cm silica gel GF plate, developing twice with 4:1 hexanes-EtOAc. The band at Rf 0.34-0.43 was eluted with EtOAc and the eluant evaporated under vacuum to a residue which was lyophilized from benzene to afford 9a-butyl-7-hydroxy-2,2,4-trimethyl-1,2,9,9a-tetrahydro-3H-fluoren-3-one as an amorphous solid.

reactant | 9a-butyl-7-methoxymethoxy-2,2,4-trimethyl-1,2,9,9a-tetrahydro-3H-fluoren-3-one | 0.08 mmol, 28 mg | C(CCC)C12CC3=CC(=CC=C3C2=C(C(C(C1)(C)C)=O)C)OCOC | C22H30O3
reactant | HCl | 0.24 mmol, 2N, 0.12 mL | Cl | ClH
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | methanol | 2 mL | CO | CH4O
solvent | EtOAc | 60 mL | CCOC(=O)C | C4H8O2
product | 9a-butyl-7-hydroxy-2,2,4-trimethyl-1,2,9,9a-tetrahydro-3H-fluoren-3-one | C(CCC)C12CC3=CC(=CC=C3C2=C(C(C(C1)(C)C)=O)C)O | C20H26O2
